US04859661
To a stirred mixture of 50 ml of water, 50 ml of ether and 10.0 g of 4-cyclohexylphenol, was added dropwise 12.6 ml of 60% nitric acid while cooling with ice. The temperature of the mixture was raised to room temperature and the reaction was carried out for a day. After 500 ml of water was added, the reaction mixture was extracted with 500 ml of ethyl acetate, washed with water and a brine successively and dried with anhydrous sodium sulfate. The drying agent was filtered off and the solvent was distilled away. The residue was purified by subjecting to silica-gel column-chromatography [eluent:chloroform] to give 6.92 g of 4-cyclohexyl-2-nitrophenol.

reactant | ether | 50 ml | CCOCC | C4H10O
reactant | 4-cyclohexylphenol | 10.0 g | C1(CCCCC1)C1=CC=C(C=C1)O | C12H16O
reactant | nitric acid | 12.6 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 500 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 4-cyclohexyl-2-nitrophenol | 6.92 g | C1(CCCCC1)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C12H15NO3
